.SUBCKT LT1635     3 2 7 4 6 1 8
XOP  3 2 7 4 6 OP1635
XREF 1 4 7 8 REF1635
** nested subcircuit: OP1635
.SUBCKT OP1635     1 2 3 4 5
*
* input range / phase reversal protection
*
GRP1 1 111 1 111 1.6667e-004
GRP2 2 112 2 112 1.6667e-004
DIP1 114 111 DX
DIP2 114 112 DX
VCM 114 4 DC 3.4000e-001
*
* input stage
*
CIN 111 112 2.2785e-012
GRIN 111 112 111 112 1.8115e-008
VCMEP 303 3 DC 0.8
VCMEN 4 304 DC 1.6
Q1 11 112 13 Q1
Q2 12 113 14 Q2
RC1 304 11 2.6854e+003
RC2 304 12 2.6854e+003
RE1 10 13 3.0583e+001
RE2 10 14 3.0583e+001
C1 11 12 5.9268e-011
IEE 303 10 DC 7.4478e-004
GSR 303 10 12 11 2.5978e-005
D1 10 303 DX
GA 60 99 11 12 3.7239e-004
*
* noise sources
*
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 8.6103e+006
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 8.6103e+006
GR 99 60 605 606 2.4145e+001
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* common mode rejection
*
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 1.9894e-003
ECM 113 111 20 99 3.1623e-006
*
* frequency shaper
*
RP1 601 99 1.3636e+003
CP1 60 601 2.3343e-009
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 61 99 1.0000e+004
CP2 61 99 5.3052e-011
GP2 99 62 61 99 1.0000e-004
RP3 621 99 1.1111e+004
LP3 62 621 3.5368e-002
RP33 62 99 1.0000e+005
GP3 99 63 62 99 1.0000e-004
RP4 63 99 1.0000e+004
CP4 63 99 3.1831e-011
GP4 99 6 63 99 1.0000e-004
*
* output stage
*
R2 6 99 1.0000e+003
C2 6 7 9.5036e-009
GB 7 99 6 99 1.8070e+003
R01 7 99 2.3531e+001
R02 7 50 1.0000e-001
R03 50 5 2.6369e+001
R04 5 99 1.0000e+012
VC 53 50 DC 1.0769e+000
VE 54 50 DC -1.0706e+000
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 2.5000e+002
ECLN 92 0 7 50 2.5000e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 2.6627e+001
*
* supply characteristic
*
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC -6.1478e-004
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 10.0
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
.MODEL DX D IS=8.0000e-016 RS=0 XTI=0
.MODEL Q1 PNP IS=1.0059e-015 BF=204344.4 XTB=1.1308e+000 XTI=3.01156e+000 KF=2.7778e-018
.MODEL Q2 PNP IS=9.9416e-016 BF=211088.6 XTB=1.1079e+000 XTI=2.98844e+000 KF=2.7778e-018
.MODEL DR D IS=8.0000e-016 KF=3.8504e-019 RS=0 XTI=0
*
.ENDS OP1635
** end nested subcircuit: OP1635
** nested subcircuit: REF1635
.SUBCKT REF1635    1 4 7 8
*
* 200 mV reference with temperature drift
*
IREF 4 10 1.0E-3
RREF 10 4 200 TC=3.3E-5
*
* reference amp, poles at 8Hz / 500KHz
*
CIN 8 4 3.0E-12
IBIAS 8 4 DC 3.5E-9
GIN 4 11 10 8 1.0E-5
RP1 11 4 1.0E5
CP1 11 4 1.98E-7
GP2 4 12 11 4 1.0E-5
RP2 12 4 1.0E5
CP2 12 4 3.2E-12
GOUT 4 22 12 4 900
ROUT1 22 4 100
ROUT2 22 1 100
*
* voltage limiter to Vdd-0.8V, Vss + 0.02V
*
DLP 22 23 DX
ELP 23 4 POLY(1) 7 4 -1.792 1.0
DLN 24 22 DX
VLN 24 4 DC 0.995
*
* current limiter to 2mA / 10uA source / sink
*
ECLP 91 0 22 1 5.4
ECLN 92 0 22 1 7.5E2
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 89 DC 0
RLIM 89 0 0.05
FB 22 4 VLIM  10
*
.MODEL DX D IS=8.0000E-016 RS=0 XTI=0
*
.ENDS REF1635
** end nested subcircuit: REF1635
.ENDS LT1635
